US07713994B2
(4Z)}-6-Bromo-4-{[(2,3,4-trihydroxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione
To a mixture of 6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione (200 mg, 0.71 mmol) and 4-aminomethyl-benzene-1,2,3-triol hydrochloride salt (139.6 mg, 1 mmol) in N,N-dimethylformamide (DMF) (10 mL) is added Et3N (0.25 mL, 1.83 mmol). The resulting precipitate is filtered to give 83 mg (28.9%) of the title compound as a dark brown solid. (ESI) m/z 403.0 (M−H)−1. 1H NMR (DMSO-d6) δ 4.53 (d, 2H, J=6 Hz), 6.29 (d, 1H, J=8 Hz), 6.55 (d, 1H, J=8 Hz), 7.28 (d, 1H, J=8 Hz), 7.85 (d, 1H, J=8 Hz), 8.05 (s, 1H), 8.39 (s, 1H), 8.67 (d, 1H, J=12 Hz), 8.80 (s, 1H), 9.18 (s, 1H), 10.63-10.68 (m, 1H), 11.05 (s, 1H).

reactant | 6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.71 mmol, 200 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
reactant | 4-aminomethyl-benzene-1,2,3-triol hydrochloride salt | 1 mmol, 139.6 mg | Cl.NCC1=C(C(=C(C=C1)O)O)O
reactant | Et3N | 1.83 mmol, 0.25 mL | CCN(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-Bromo-4-{[(2,3,4-trihydroxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 83 mg, 28.9% | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNCC1=C(C(=C(C=C1)O)O)O | C17H13BrN2O5
